US08981084B2
3,4-Difluorobenzonitrile (2.0 g, 14.3 mmol) and piperazine (6.19 g, 71.8 mmol) were dissolved in N,N-dimethylacetamide (10 mL) and the solution was heated to 120° C. for 1.5 h. The reaction mixture was cooled to room temperature, diluted with water, and extracted with EtOAc. The combined extracts were washed with water and brine, dried over anhydrous Na2SO4, and concentrated under reduced pressure to get 3-fluoro-4-(piperazin-1-yl)benzonitrile (2.8 g, yield 95%), which was carried through without further purification. 1H NMR (400 MHz, DMSO-d6) δ 7.69-7.65 (dd, J=13.6 Hz, 2.0 Hz, 1H), 7.56-7.53 (dd, J=8.5 Hz, 1.8 Hz, 1H), 7.12-7.07 (d, J=8.7 Hz, 1H), 3.08-3.05 (m, 4H), 2.83-2.80 (m, 4H). MS (ESI) m/z: Calculated for C11H12FN3: 205.10. found: 205.9 (M+H)+

reactant | 3,4-Difluorobenzonitrile | 14.3 mmol, 2.0 g | FC=1C=C(C#N)C=CC1F | C7H3F2N
reactant | piperazine | 71.8 mmol, 6.19 g | N1CCNCC1 | C4H10N2
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | 3-fluoro-4-(piperazin-1-yl)benzonitrile | 2.8 g, yield 95% | FC=1C=C(C#N)C=CC1N1CCNCC1 | C11H12FN3
